US05300477
A mixture of 8.18 g (40.9 mmol) of 6-ethyl-2-phenyl-4(3H)-pyrimidinone, 1.68 g (42.0 mmol) of sodium hydroxide, 10.42 g (41.0 mmol) of iodine and 50 mL of water was heated at 50° C. for 4 h. The mixture was cooled and filtered. The white solid collected was dried in a vacuum oven to leave 12.60 g (75%) of 6-ethyl-5-iodo-2-phenyl-4(3H)-pyrimidinone. 1H-NMR (d6-DMSO) δ1.25(3H,t), 2.85(2H,q), 7.50(3H,m), 8.15(2H,m).

reactant | 6-ethyl-2-phenyl-4(3H)-pyrimidinone | 40.9 mmol, 8.18 g | C(C)C1=CC(NC(=N1)C1=CC=CC=C1)=O | C12H12N2O
reactant | sodium hydroxide | 42.0 mmol, 1.68 g | [OH-].[Na+]
reactant | iodine | 41.0 mmol, 10.42 g | II | I2
solvent | water | 50 mL | O | H2O
product | 6-ethyl-5-iodo-2-phenyl-4(3H)-pyrimidinone | 12.60 g, 75% | C(C)C1=C(C(NC(=N1)C1=CC=CC=C1)=O)I | C12H11IN2O
